US06800651B2
N-(3-(Hydroxymethyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Into a −78° C. solution of N-(3-methoxycarbonylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine (75 g, 0.224 mole, 1 eq) in THF was added slowly DIBAl-H (561 mL, 1M in toluene, 2.5 eq). The mixture was stirred for 1 hour and then was warmed to 0° C. with an ice water bath and stirred for 2 h. The reaction was carefully quenched with methanol (18.50 mL, 0.396 mole, 1.8 eq). It was then diluted with ether (4650 mL) and Saturated Rochelle's salt (2775 mL) and stirred vigorously overnight. The layers were separated and the aqueous extracted with EtOAc (2000 mL). The combined organics were washed with brine, dried with MgSO4, filtered and concentrated. The residue was chromatographed, eluting with 1:1 DCM/EtOAc to give the title compound as a white solid (51.4 g, 43% Yield).

reactant | N-(3-methoxycarbonylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | 0.224 mole, 75 g, 1 eq | COC(=O)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C16H18N2O4S
reactant | DIBAl-H | 1M, 561 mL, 2.5 eq | CC(C)C[AlH]CC(C)C
reactant | methanol | 0.396 mole, 18.50 mL, 1.8 eq | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 4650 mL | CCOCC | C4H10O
solvent | Rochelle's salt | 2775 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
product | N-(3-(Hydroxymethyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | 51.4 g, 43% Yield | OCC=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H18N2O3S
